US04024260
1-Nitro-2-ethylamino-2-[2-((4-methyl-5-imidazolyl)methylthio)-ethylamino]ethylene
Reaction of 1-nitro-2-methylthio-2-[2-((4-methyl-5-immidazolyl)-methylthio)ethylamino]ethylene with ethylamine according to the process of Example 2(ii) yielded the title compound, m.p. 171°-172°.

reactant | 1-nitro-2-methylthio-2-[2-((4-methyl-5-immidazolyl)-methylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)C)SC | C10H16N4O2S2
reactant | ethylamine | C(C)N | C2H7N
product | 1-Nitro-2-ethylamino-2-[2-((4-methyl-5-imidazolyl)methylthio)-ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)C)NCC | C11H19N5O2S
